US08242145B2
Step 4: [5(4-Bromo-2-formyl-phenoxy)-2-trifluoromethyl-phenyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 24, Step 4, using the following starting materials: (5-hydroxy-2-trifluoromethyl-phenyl)-acetic acid ethyl ester and 5-bromo-2-fluorobenzaldehyde.

reactant | (5-hydroxy-2-trifluoromethyl-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC(=C1)O)C(F)(F)F)=O | C11H11F3O3
reactant | 5-bromo-2-fluorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
product | [5(4-Bromo-2-formyl-phenoxy)-2-trifluoromethyl-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC(=C1)OC1=C(C=C(C=C1)Br)C=O)C(F)(F)F)=O | C18H14BrF3O4
